US08293911B2
Step B: 6-fluoro-1,2,3,4-tetrahydroisoquinoline
Diborane (1M, THF, 24 mL) was added at 0° C. to a solution of 6-fluoro-3,4-dihydro isoquinolin-1(2H)-one (1.14 g, 6.9 mmol) in THF (8 mL). The mixture was stirred at reflux for 18 h. It was cooled to room temperature and water was added. The mixture was extracted with dichloromethane, and the organic layer was dried over sodium sulfate and concentrated. Purification by column chromatography (hexanes:ethyl acetate 1:1) afforded the title compound.

reactant | Diborane | 1M, 24 mL | B#B | B2
reactant | 6-fluoro-3,4-dihydro isoquinolin-1(2H)-one | 6.9 mmol, 1.14 g | FC=1C=C2CCNC(C2=CC1)=O | C9H8FNO
reactant | water | O | H2O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 6-fluoro-1,2,3,4-tetrahydroisoquinoline | FC=1C=C2CCNCC2=CC1 | C9H10FN
